US03994932
6.1 Grams of 5-nitro-1,4-naphthoquinone, 140 grams of methyl cellosolve (i.e., β-hydroxyethyl methyl ether) and 2.4 grams of 1,3-butadiene were introduced into an autoclave and heated to 80° C. for reaction for 2.5 hours. After allowing to cool, 0.06 gram of a 5% palladium on carbon catalyst was added to the solution into which was fed hydrogen while agitating at room temperature under normal pressure for hydrogen absorption in the amount of 2 mols per mol of the starting 5-nitro material. Thereafter, the catalyst was separated by filtration. To the resultant filtrate was added 6 grams of a 20% aqueous sodium hydroxide solution, which was agitated at 60° C. for 1.5 hours for reaction. After completion of the reaction, hydrochloric acid was added to the reaction solution for neutralization, followed by removing methyl cellosolve by distillation under a reduced pressure of 0.2 kg/cm2 for concentration. The thus concentrated solution was allowed to cool thereby to obtain crystals of 1-aminoanthraquinone. After separation by filtration, the crystals were washed with water and dried to obtain 5.6 grams of 1-aminoanthraquinone having a purity of 98.5%.

reactant | 5-nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
reactant | 1,3-butadiene | 2.4 grams | C=CC=C | C4H6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methyl cellosolve | 140 grams | COCCO | C3H8O2
product | 1-aminoanthraquinone | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
